US04251662
Preparation of 6-phenoxypyridine-4-methanol acetate (Compound No. 3: Formula VIII)
In accordance with the process of Example 1, 37 g of 6-phenoxy-4-picoline was oxidized by using hydrogen peroxide-glacial acetic acid to obtain 28.2 g of 6-phenoxypyridine-4-methanol-N-oxide. Then, 28.2 g of 6-phenoxypyridine-4-methanol-N-oxide and 28.6 g of acetic anhydride were added to 400 ml of dioxane and the mixture was refluxed for 5 hours to react them.

reactant | 6-phenoxypyridine-4-methanol-N-oxide | 28.2 g | O(C1=CC=CC=C1)C1=CC(=CC=[N+]1[O-])CO | C12H11NO3
reactant | acetic anhydride | 28.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 6-phenoxypyridine-4-methanol acetate | C(C)(=O)OCC1=CC=NC(=C1)OC1=CC=CC=C1 | C14H13NO3
